US07326732B2
(ii) 1-Methyl-5-nitro-1H-indole-2-carboxylic acid methyl ester
1-Methyl-5-nitro-1H-indole-2-carboxylic acid (99 mg, 0.45 mmol) was esterified with MeOH using Method A to give the title compound.

reactant | 1-Methyl-5-nitro-1H-indole-2-carboxylic acid | 0.45 mmol, 99 mg | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)O | C10H8N2O4
reactant | MeOH | CO | CH4O
product | 1-Methyl-5-nitro-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])C | C11H10N2O4
